US09376442B2
tert-Butyl (trans-4-{[(4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}cyclohexyl)carbamate
Starting from 4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.c15) and commercially available tert-butyl trans-(4-amino-cyclohexyl)-carbamate the title compound is obtained as pale yellow viscous oil.

reactant | 4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C=C1)C(C)C)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C27H37N3O4Si
reactant | tert-butyl trans-(4-amino-cyclohexyl)-carbamate | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-Butyl (trans-4-{[(4-[2-(cyclopropylmethoxy)-5-(propan-2-yl)phenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}cyclohexyl)carbamate | C1(CC1)COC1=C(C=C(C=C1)C(C)C)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)N[C@@H]2CC[C@H](CC2)NC(OC(C)(C)C)=O | C38H57N5O5Si
